US09289419B2
6-(1H-1,2,4-triazol-1-yl)pyridin-3-amine
Raney nickel (0.650 g) was added to a solution of 5-nitro-2-(1H-1,2,4-triazol-1-yl)pyridine (3.2 g, 16.7 mmol) in a mixture of ethanol and methanol (1:1) (150 mL) followed by the addition of Hydrazine hydrate (2.51 g, 50.2 mmol) and stirring was continued at 25° C. 1 hr. The reaction mixture was filtered over celite bed and washed with methanol. The filtrate and the washings were concentrated under reduced pressure to afford title compound as pale brown liquid. MS (ESI): m/z 162.1 (M+H).

reactant | 5-nitro-2-(1H-1,2,4-triazol-1-yl)pyridine | 16.7 mmol, 3.2 g | [N+](=O)([O-])C=1C=CC(=NC1)N1N=CN=C1 | C7H5N5O2
reactant | Hydrazine hydrate | 50.2 mmol, 2.51 g | O.NN
catalyst | Raney nickel | 0.650 g | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
solvent | methanol | 150 mL | CO | CH4O
product | 6-(1H-1,2,4-triazol-1-yl)pyridin-3-amine | N1(N=CN=C1)C1=CC=C(C=N1)N | C7H7N5
